US04567175
A mixture of 6.8 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 3.02 g of 2-(dimethylamino)ethyl chloride hydrochloride, 6.1 g of potassium carbonate and 150 ml of acetone is refluxed for 20 hours. After the reaction is completed, insoluble materials are removed by filtration and washed with ethanol. The washings are added to the filtrate, and the combined solution is evaporated under reduced pressure to remove solvent. The residue is dissolved in ethyl acetate, and the solution is washed with water, dried and then evaporated to remove solvent. The residue is recrystallized from a mixture of ethyl acetate and n-hexane. 7.13 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are thereby obtained as colorless needles.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 6.8 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC(=C2)Cl | C16H14ClNO3S
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 3.02 g | Cl.CN(CCCl)C
reactant | potassium carbonate | 6.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 7.13 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC(=C2)Cl | C20H23ClN2O3S
